US03983128
a. [[[1-(2-furyl)methyl-5-pyrazolyl]amino]methylene]benzoyl acetic acid ethyl ester
163 g. of 1-(2-furyl)methyl-5-aminopyrazole (1 mol.) and 248 g. of ethoxymethylene benzoyl acetic acid ethyl ester (1 mol.) are heated at 130° until no more alcohol distils off (approximately 1 hour). The oily residue crystallizes and yields on cooling and recrystallization from hexane 310 g. of [[[1-(2-furyl)methyl-5-pyrazolyl]-amino]methylene]benzoyl acetic acid ethyl ester (85%), m.p. 75°-77°.

reactant | 1-(2-furyl)methyl-5-aminopyrazole | 1 mol | O1C(=CC=C1)CN1N=CC=C1N | C8H9N3O
reactant | ethoxymethylene benzoyl acetic acid ethyl ester | 1 mol | C(C)OC(C(C(C1=CC=CC=C1)=O)=COCC)=O | C14H16O4
product | [[[1-(2-furyl)methyl-5-pyrazolyl]amino]methylene]benzoyl acetic acid ethyl ester | C(C)OC(C(C(C1=CC=CC=C1)=O)=CNC1=CC=NN1CC=1OC=CC1)=O | C20H19N3O4
